US07183287B2
Preparation of (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide
The title compound was prepared by a procedure similar to the one described for (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-(2-hydroxyethyl)-4-methylbenzamide using glycine methyl amide HCl (1.77 g, 14.25 mmol) as the amine and with an addition of a second equivalent of N-methylmorpholine. After reverse phase HPLC purification, the organic extracts were concentrated under reduced pressure and dried in vacuo to afford the desired product (1.55 g, 33%) as white solid. 1H-NMR (CD3OD, 400 MHz) δ 7.97 (dd, 1H, J=1.6 Hz), 7.73 (d, 1H, J=1.6 Hz), 7.62 (m, 1H), 7.57 (d, 1H, J=8 Hz), 7.01 (m, 2H), 5.59 (q, 2H, J=12.4 Hz), 3.98 (s, 2H), 2.74 (s, 3H), 2.18 (s, 3H), 2.14 (s, 3H); ES-HRMS m/z 491.1262 (M+H C23H22ClF2N4O4 requires 491.1292). Both (+) and (−) atropomers will be resolved and characterized.

reactant | (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-N-(2-hydroxyethyl)-4-methylbenzamide | ClC1=C(N=C(N(C1=O)C=1C=C(C(=O)NCCO)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C22H20ClF2N3O4
reactant | glycine methyl amide HCl | 14.25 mmol, 1.77 g | Cl.CNC(CN)=O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
product | (±)3-[5-chloro-4-[(2,4-difluorobenzyl)oxy]-2-methyl-6-oxopyrimidin-1(6H)-yl]-4-methyl-N-{1-[(methylamino)carbonyl]methyl}benzamide | 1.55 g, 33% | ClC1=C(N=C(N(C1=O)C=1C=C(C(=O)NCC(=O)NC)C=CC1C)C)OCC1=C(C=C(C=C1)F)F | C23H21ClF2N4O4
